US05622954
Under a nitrogen atmosphere, 25.0 grams (0.14 mole) of distilled fluoromethyl phenyl sulfone (prepared by the method of J. R McCarthy et al., Org. Syn. 1993, 72, 209), 24.8 grams (0.14 mole) of diethyl chlorophosphate, and 300 mL of anhydrous tetrahydrofuran are placed in a reaction vessel. The stirring mixture is cooled to about -70° C., and a solution of 310 mL (0.31 mole) of lithium bis(trimethylsilyl)amide (commercially available-1M in tetrahydrofuran) is added dropwise during a 15 minute period. Upon completion of addition, the reaction mixture is stirred at about -70° C. for one hour. After this time a solution of 19.7 grams (0.10 mole) of 3-(4-chlorophenyl)-3-methylbutyraldehyde in 65 mL of tetrahydrofuran is added via a syringe. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature where it is stirred for about two hours. The reaction mixture is then poured into an ice-cold mixture of 250 mL of ethyl acetate, 250 mL of saturated aqueous ammonium chloride, and 30 mL of concentrated hydrochloric acid. The organic layer is separated, and the aqueous o layer is extracted with ethyl acetate. The extract and the organic layer are combined, washed with 100 mL of saturated aqueous sodium chloride, and dried with magnesium sulfate. The mixture is filtered, and the filtrate is concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel. The product-containing fractions are combined and concentrated under reduced pressure, yielding 1-fluoro-1-phenylsulfonyl-3-methyl-3-(4-chlorophenyl)-1-butene.

reactant | fluoromethyl phenyl sulfone | 0.14 mole, 25.0 grams | C1(=CC=CC=C1)S(=O)(=O)CF | C7H7FO2S
reactant | diethyl chlorophosphate | 0.14 mole, 24.8 grams | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | lithium bis(trimethylsilyl)amide | 0.31 mole, 310 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(4-chlorophenyl)-3-methylbutyraldehyde | 0.10 mole, 19.7 grams | ClC1=CC=C(C=C1)C(CC=O)(C)C | C11H13ClO
reactant | ammonium chloride | 250 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 30 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 1-fluoro-1-phenylsulfonyl-3-methyl-3-(4-chlorophenyl)-1-butene | FC(=CC(C)(C1=CC=C(C=C1)Cl)C)S(=O)(=O)C1=CC=CC=C1 | C17H16ClFO2S
